US05587389
6. 2-{[[3-Methyl-4-(3-thienylmethylthio)-2-pyridinyl]methyl]thio}-1H-benzimidazole
2-Chloromethyl-3-methyl-4-(3-thienylmethylthio)pyridine hydrochloride, 2-mercapto-1H-benzimidazole and sodium hydroxide are reacted in ethanol at 25° C. for 20 h. After crystallization from toluene/methanol, the title compound is isolated. Yield: 62%, m.p. 161°-164° C.

reactant | 2-Chloromethyl-3-methyl-4-(3-thienylmethylthio)pyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCC1=CSC=C1
reactant | 2-mercapto-1H-benzimidazole | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-{[[3-Methyl-4-(3-thienylmethylthio)-2-pyridinyl]methyl]thio}-1H-benzimidazole | Yield: 62% | CC=1C(=NC=CC1SCC1=CSC=C1)CSC1=NC2=C(N1)C=CC=C2 | C19H17N3S3
